US07511057B2
4-Methyl-4-methylsulfanyl-3-oxo-pentanenitrile
The title compound was prepared from ethyl 2-methyl-2-(methylthio)propionate and acetonitrile, using a method similar to that of preparation 2, as a colourless oil in 81% yield.

reactant | ethyl 2-methyl-2-(methylthio)propionate | CC(C(=O)OCC)(C)SC | C7H14O2S
reactant | acetonitrile | C(C)#N | C2H3N
product | 4-Methyl-4-methylsulfanyl-3-oxo-pentanenitrile | 81% yield | CC(C(CC#N)=O)(C)SC | C7H11NOS
